US05399543
A solution of 32.9 mL (0.033 mole) of boron tribromide (1M in methylene chloride) in 50 mL of methylene chloride was stirred, and a solution of 3.5 grams (0.011 mole) of 3-(2-fluoro-4-methoxyphenyl)-1-methyl-6-trifluoromethyluracil in 50 mL of methylene chloride was added dropwise. Upon completion of addition, the reaction mixture was stirred at ambient temperature for about 18 hours. After this time the reaction mixture was poured into water. The organic layer was separated and the aqueous layer was extracted with methylene chloride. The methylene chloride extract and the organic layer were combined and washed with water. The organic layer was dried with magnesium sulfate and filtered. The filtrate was conc-entrated under reduced pressure, yielding about 2.9 grams of 3-(2-fluoro-4-hydroxyphenyl)-1-methyl-6-trifluoromethyluracil, mp 185°-190° C. The NMR spectrum was consistent with the proposed structure.

reactant | boron tribromide | 0.033 mole, 1M, 32.9 mL | B(Br)(Br)Br | BBr3
reactant | 3-(2-fluoro-4-methoxyphenyl)-1-methyl-6-trifluoromethyluracil | 0.011 mole, 3.5 grams | FC1=C(C=CC(=C1)OC)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H10F4N2O3
reactant | water | O | H2O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-fluoro-4-hydroxyphenyl)-1-methyl-6-trifluoromethyluracil | about 2.9 grams | FC1=C(C=CC(=C1)O)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C12H8F4N2O3
